US04348220
o-Methylthiomethylbenzenesulfonamide
To a solution of 26 g (50% pure, 55 mmol) of o-methylthiomethylbenzenesulfonyl chloride in 250 ml of methylene chloride was added 4.5 ml of anhydrous ammonia at 0°-5° over 1 hour. Stirring was continued at 0°-5° C. for 2 hours. The solid precipitate was filtered off and the filtrate was evaporated to dryness to afford 24.8 g of orange residue. The crude product was triturated in ether, resulting in light pink crystals: m.p. 119°-124° C.

reactant | o-methylthiomethylbenzenesulfonyl chloride | 55 mmol, 26 g | CSCC1=C(C=CC=C1)S(=O)(=O)Cl | C8H9ClO2S2
reactant | ammonia | 4.5 ml | N | H3N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | o-Methylthiomethylbenzenesulfonamide | 24.8 g | CSCC1=C(C=CC=C1)S(=O)(=O)N | C8H11NO2S2
